US08420631B2
But-3-ynyl-carbamic acid tert-butyl ester
Add triethylamine (3 mL) to a solution of 4-pentynoic acid (1.96 g, 20 mmol) in tert-butanol (6 mL) at 0° C. and then add diphenyl phosphoryl azide (CAUTION: reaction starts violently a short period after the addition). Heat the reaction mixture at 85° C. overnight under nitrogen. Concentrate in vacuo and purify the crude mixture by chromatography on silica gel eluting with dichloromethane to obtain the title compound as a white solid (1.81 g, 53%).

reactant | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
reactant | 4-pentynoic acid | 20 mmol, 1.96 g | C(CCC#C)(=O)O | C5H6O2
reactant | diphenyl phosphoryl azide | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butanol | 6 mL | C(C)(C)(C)O | C4H10O
product | But-3-ynyl-carbamic acid tert-butyl ester | 1.81 g, 53% | C(C)(C)(C)OC(NCCC#C)=O | C9H15NO2
